US05037834
6,7-Difluoro-1-(2-fluoroethyl)-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid ethyl ester
6,7-Difluoro-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid ethyl ester (10.0 g, 39.5 mmol), 1-bromo-2-fluoroethane (25.1 g, 197.5 mmol) and potassium carbonate (10.9 g, 79 mmol) were combined in dimethylformamide (200 ml) and heated to 90° for 20 hours. The reaction mixture was poured into cold water (1.5 l), and the copious precipitate was filtered. The precipitate was washed with cold water and recrystallized from ethyl acetate to provide the title product as light brown needles, m.p. 178°-180° (8.22 g, 27.5 mmol, 70% yield).

reactant | 6,7-Difluoro-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid ethyl ester | 39.5 mmol, 10.0 g | C(C)OC(=O)C1=CNC2=CC(=C(C=C2C1=O)F)F | C12H9F2NO3
reactant | 1-bromo-2-fluoroethane | 197.5 mmol, 25.1 g | BrCCF | C2H4BrF
reactant | potassium carbonate | 79 mmol, 10.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 1.5 l | O | H2O
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 6,7-Difluoro-1-(2-fluoroethyl)-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid ethyl ester | 70% yield | C(C)OC(=O)C1=CN(C2=CC(=C(C=C2C1=O)F)F)CCF | C14H12F3NO3
